US08048909B2
1-{1-[(3-Chlorophenyl)sulfonyl]-2-methyl-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride
Using 1-[(3-chlorophenyl)sulfonyl]-2-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde (171 mg), methylammonium chloride (311 mg) and sodium cyanoborohydride (103 mg), a procedure as in Example 4 was performed to give the title compound as a colorless oil (yield 64 mg, 34%).

reactant | 1-[(3-chlorophenyl)sulfonyl]-2-methyl-5-phenyl-1H-pyrrole-3-carbaldehyde | 171 mg | ClC=1C=C(C=CC1)S(=O)(=O)N1C(=C(C=C1C1=CC=CC=C1)C=O)C | C18H14ClNO3S
reactant | methylammonium chloride | 311 mg | [Cl-].C[NH3+]
reactant | sodium cyanoborohydride | 103 mg | C(#N)[BH3-].[Na+]
product | 1-{1-[(3-Chlorophenyl)sulfonyl]-2-methyl-5-phenyl-1H-pyrrol-3-yl}-N-methylmethanamine hydrochloride | yield 64 mg, 34% | Cl.ClC=1C=C(C=CC1)S(=O)(=O)N1C(=C(C=C1C1=CC=CC=C1)CNC)C | InChI=1S/C19H19ClN2O2S.ClH/c1-14-16(13-21-2)11-19(15-7-4-3-5-8-15)22(14)25(23,24)18-10-6-9-17(20)12-18;/h3-12,21H,13H2,1-2H3;1H
